US06136823
Synthesis of Ethyl 7-Benzylamino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate
Benzylamine (750 mg) and ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate (4,200 mg) were added to a solution of N-methylpyrrolidine (800 mg) and N,N-dimethylformamide (20 ml), and the mixture was stirred overnight at 80° C. After the reaction mixture was cooled to room temperature, ethyl acetate (100 ml) was added to the reaction mixture, and the resultant mixture was washed 3 times with water (100 ml). After an organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was subjected to column chromatography on silica gel (eluent; chloroform) to obtain the title compound (3,200 mg) as an amorphous substance.

reactant | Benzylamine | 750 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | ethyl 1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 4,200 mg | C(C)(C)(C)OC(=O)NC=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)OCC)F)F | C23H19ClF4N2O5
reactant | N-methylpyrrolidine | 800 mg | CN1CCCC1 | C5H11N
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | Ethyl 7-Benzylamino-1-(5-tert-butoxycarbonylamino-2,4-difluorophenyl)-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylate | 3,200 mg | C(C1=CC=CC=C1)NC1=C(C=C2C(C(=CN(C2=C1Cl)C1=C(C=C(C(=C1)NC(=O)OC(C)(C)C)F)F)C(=O)OCC)=O)F | C30H27ClF3N3O5
